US07053212B2
Step A: N-(4-Methoxy-phenyl)-2,4,6-trimethyl-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide
To a solution of (4-methoxy-phenyl)-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine (0.100 g, 0.319 mmol) and triethylamine (0.133 mL, 0.957 mmol) in 2 mL methylene chloride was added 2-mesitylenesulfonyl chloride (0.139 g, 0.638 mmol). The reaction mixture was stirred at room temperature overnight. Saturated aqueous sodium bicarbonate was added and the layers were separated. The aqueous layer was extracted with 2 mL methylene chloride and the combined organic layers were evaporated to afford the title compound of Step A which was used in the next step without further purification.

reactant | (4-methoxy-phenyl)-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 0.319 mmol, 0.100 g | COC1=CC=C(C=C1)NCC1=CC=C(C=C1)OC1OCCCC1 | C19H23NO3
reactant | triethylamine | 0.957 mmol, 0.133 mL | C(C)N(CC)CC | C6H15N
reactant | 2-mesitylenesulfonyl chloride | 0.638 mmol, 0.139 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Methoxy-phenyl)-2,4,6-trimethyl-N-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | COC1=CC=C(C=C1)N(S(=O)(=O)C1=C(C=C(C=C1C)C)C)CC1=CC=C(C=C1)OC1OCCCC1 | C28H33NO5S
